*$
* PART NUMBER:NJM3403A
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (C) Bee Technologies Inc. 2007
.Subckt NJM3403A OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 V- 
+ +IN4 -IN4 OUT4
X_U1     +IN1 -IN1 V+ V- OUT1 NJM3403A_SUB
X_U2     +IN2 -IN2 V+ V- OUT2 NJM3403A_SUB
X_U3     +IN3 -IN3 V+ V- OUT3 NJM3403A_SUB
X_U4     +IN4 -IN4 V+ V- OUT4 NJM3403A_SUB
.ends  NJM3403A
.subckt NJM3403A_SUB 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 15.388E6 -1E3 1E3 15E6 -15E6
  ga    6  0 11 12 259.94E-6
  gcm   0  6 10 99 8.2198E-9
  iee   3 10 dc 36.591E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 3.8471E3
  rc2   4 12 3.8471E3
  re1  13 10 2.4186E3
  re2  14 10 2.4186E3
  ree  10 99 5.4658E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8040E3
  vb    9  0 dc 0
  vc    3 53 dc 1.8037
  ve   54  4 dc 1.8037
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=249.66)
.model qx2 PNP(Is=864.3162E-18 Bf=268.01)
.ends
*$
